US09210927B2
Preparation of (E)-5-(3-(3,5-Dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-N-(3,3,3-trifluoropropyl)-2,3-dihydro-1H-inden-1-amine (BC10)
To a stirred solution of (E)-5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-2,3-dihydro-1H-inden-1-one (0.15 g, 0.35 mmol) in DCE (10 mL), was added trifluoropropyl amine (0.048 g, 0.42 mmol) and sodium cyanoborohydride (0.055 g, 0.875 mmol) in cooling and the reaction mixture was stirred at room temperature for 16 h. The reaction mixture was diluted with DCE, was washed with water and brine and dried over anhydrous sodium sulfate. Concentration under reduced pressure gave the crude compound, which was purified by flash column chromatography (SiO2, 100-200 mesh; 10-15% EtOAc in petroleum ether) to afford the title compound as a colorless gummy material (0.042 g, 24%): 1H NMR (400 MHz, CDCl3) δ 7.38-7.20 (m, 5H), 6.62 (d, J=16.0 Hz, 1H), 6.34 (dd, J=16.0, 8.0 Hz, 1H), 5.83 (br, 1H), 5.52 (m, 1H), 4.12 (m, 1H), 3.02 (m, 3H), 2.82 (m, 1H), 2.50 (m, 2H), 1.82 (m, 1H), 1.42 (m, 1H); ESIMS m/z 497.98 ([M−H]−); IR (thin film) 3027, 1654, 815 cm−1.

reactant | (E)-5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-2,3-dihydro-1H-inden-1-one | 0.35 mmol, 0.15 g | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C=1C=C2CCC(C2=CC1)=O)C(F)(F)F | C19H12Cl2F4O
reactant | trifluoropropyl amine | 0.42 mmol, 0.048 g | FC(CCN)(F)F | C3H6F3N
reactant | sodium cyanoborohydride | 0.875 mmol, 0.055 g | C(#N)[BH3-].[Na+]
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | (E)-5-(3-(3,5-Dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-N-(3,3,3-trifluoropropyl)-2,3-dihydro-1H-inden-1-amine | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C=1C=C2CCC(C2=CC1)NCCC(F)(F)F)C(F)(F)F | C22H18Cl2F7N
